US04963564
N-[6-[[6-(2-Pyridinyl)hexyl]oxy]hexyl]benzenemethanamine
2-[6-[(6-Bromohexyl)oxy]hexyl]pyridine (4.99 g) was added dropwise to benzylamine (22 ml) at 140° C. under nitrogen. The solution was stirred at 140° for 1 h and distilled under vacuum to remove benzylamine. The residue was partitioned between ethyl acetate (300 ml) and 8% aqueous sodium bicarbonate (200 ml). The dried organic layer was concentrated and the residual oil was purified by FCC eluting with ethyl acetate-triethylamine (100:1) to give the title compound as a pale yellow oil (4.65 g), t.l.c. (ethyl acetate+few drops triethylamine) Rf 0.23.

reactant | 2-[6-[(6-Bromohexyl)oxy]hexyl]pyridine | 4.99 g | BrCCCCCCOCCCCCCC1=NC=CC=C1 | C17H28BrNO
reactant | benzylamine | 22 ml | C(C1=CC=CC=C1)N | C7H9N
product | N-[6-[[6-(2-Pyridinyl)hexyl]oxy]hexyl]benzenemethanamine | 4.65 g | N1=C(C=CC=C1)CCCCCCOCCCCCCNCC1=CC=CC=C1 | C24H36N2O
